US08895583B2
Step A. 4-(4-Oxocyclohexyl)phenyl trifluoromethanesulfonate
To a vial containing 4-(4-hydroxyphenyl)cyclohexanone (0.88 g, 4.61 mmol) in dichloromethane (15 mL), was added pyridine (1.12 mL, 13.8 mmol), and then reaction mixture was cooled to 0° C. Subsequently, triflic anhydride (1.01 mL, 5.99 mmol) was added dropwise. After stirring for 5 min the reaction mixture was allowed to warm to ambient temperature, then stirred for another 20 min. The reaction mixture was quenched with 2N HCl in water and then extracted with ethyl acetate. The organic phase was collected, dried over sodium sulfate, passed through a silica plug and concentrated in vacuo.: LCMS m/z 322.7 [M+H]+; 1H NMR (500 MHz, acetone-d6) δ 7.55 (d, J=8.6 Hz, 2 H),7.39 (d, J=8.8 Hz, 2 H),3.27-3.21 (m, 1 H),2.63-256 (m, 2 H),2.36-2.30 (m, 2 H),2.22-2.15 (m, 2 H),2.00-1.91 (m, 1 H).

reactant | 4-(4-hydroxyphenyl)cyclohexanone | 4.61 mmol, 0.88 g | OC1=CC=C(C=C1)C1CCC(CC1)=O | C12H14O2
reactant | pyridine | 13.8 mmol, 1.12 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 5.99 mmol, 1.01 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(4-Oxocyclohexyl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)C1CCC(CC1)=O)(F)F | C13H13F3O4S
